US07375093B2
A solution of 4-(3,5-dimethyl-benzoyl)-4-(3-methoxy-2-methyl-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester in CH2Cl2 and trifluoroacetic acid (20 mL) was stirred at room temperature for 2 hours. The solvent was removed on a rotary evaporator, and the residue was partitioned between ether (150 mL) and saturated aqueous NaHCO3 (50 mL). Significant amounts of undissolved solid were present. The ether layer was dried over MgSO4 and evaporated to leave N-[4-(3,5-dimethyl-benzoyl)-piperidin-4-yl]-3-methoxy-2-methyl-benzamide (0.50 g) as a solid. Additional product (0.11 g) was obtained by extraction and concentration of the aqueous layer with CH2Cl2 (2×50 mL). 1H NMR (500 MHz, CDCl3) δ(ppm): 7.55 (s, 2H), 7.12 (m, 2H), 6.87 (d, 1H), 6.77 (d, 1H), 6.65 (br, 1H), 3.8 (s, 3H), 3.1 (br, 2H), 2.95 (br, 2H), 2.3 (s, 6H), 2.25 (br s, 4H), 1.94 (s, 3H).

reactant | 4-(3,5-dimethyl-benzoyl)-4-(3-methoxy-2-methyl-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(C1=C(C(=CC=C1)OC)C)=O)C(C1=CC(=CC(=C1)C)C)=O | C28H36N2O5
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[4-(3,5-dimethyl-benzoyl)-piperidin-4-yl]-3-methoxy-2-methyl-benzamide | 0.50 g | CC=1C=C(C(=O)C2(CCNCC2)NC(C2=C(C(=CC=C2)OC)C)=O)C=C(C1)C | C23H28N2O3
